US07179801B2
To a suspension of 5-amino-1-propyl-1H-pyrazole-4-carbonitrile (16.32 g) in pyridine (160 ml) was added triphenylmethyl chloride (36.35 g) at room temperature. After stirring at 60° C. for 5 hours, the reaction mixture was evaporated in vacuo. The residue was added to a mixture of tetrahydrofuran and brine, and the organic layer was separated and washed with brine. The extract was dried over anhydrous magnesium sulfate, filtered, and evaporated in vacuo. To the residue was triturated with diisopropyl ether to give 1-propyl-5-tritylamino-1H-pyrazole-4-carbonitrile (37.21 g) as a colorless solid.

reactant | 5-amino-1-propyl-1H-pyrazole-4-carbonitrile | 16.32 g | NC1=C(C=NN1CCC)C#N | C7H10N4
reactant | triphenylmethyl chloride | 36.35 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | pyridine | 160 ml | N1=CC=CC=C1 | C5H5N
product | 1-propyl-5-tritylamino-1H-pyrazole-4-carbonitrile | 37.21 g | C(CC)N1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C#N | C26H24N4
